US04572912
The procedure described in Example 1(a) was repeated, except that 13.5 g of ethyl 2-chloro-3-{4-[2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)ethoxy]phenyl}propionate, 4.4 g of thiourea and 20 ml of sulfolane were reacted for 14 hours at 110° C. The crude product was dissolved in ethyl acetate and the solution was washed with water and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure and the resulting residue was purified by column chromatography through silica gel. This was first eluted with a 4:1 by volume mixture of benzene and ethyl acetate, and from these fractions were obtained the desired 5-{4-[2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)ethoxy]benzyl}thiazolidine-2,4-dione, whose melting point and nuclear magnetic resonance spectra agreed with those of the product of Example 8.

reactant | ethyl 2-chloro-3-{4-[2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)ethoxy]phenyl}propionate | 13.5 g | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCCC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C26H33ClO5
reactant | thiourea | 4.4 g | NC(=S)N | CH4N2S
reactant | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-{4-[2-(6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)ethoxy]benzyl}thiazolidine-2,4-dione | OC=1C(=C2CCC(OC2=C(C1C)C)(C)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C25H29NO5S
